US07592358B2
IP 1b. 4-trifluoromethylpiperidin-4-ol
A suspension of 6.48 g (25.00 mmol) of 1-benzyl-4-trifluoromethylpiperidin-4-ol and 810 mg Pd/C (10%) in 100 mL of MeOH was hydrogenated at RT and 3 bar hydrogen pressure for 17 hours. The catalyst was filtered off and the filtrate evaporated down in vacuo. Yield: 4.22 g (quant. yield); C6H10F3NO (M=169.145); calc.: molpeak (M+H)+: 170; found: molpeak (M+H)+: 17; Rf value: 0.00 (silica gel, cyc/EtOAc 2:1).

reactant | 1-benzyl-4-trifluoromethylpiperidin-4-ol | 25.00 mmol, 6.48 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C(F)(F)F | C13H16F3NO
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 810 mg | [Pd] | Pd
product | 4-trifluoromethylpiperidin-4-ol | quant. yield | FC(C1(CCNCC1)O)(F)F | C6H10F3NO
